US07423185B2
1-(4-Bromo-2,6-dimethylphenoxy)propan-2-one
The title compound was prepared according to procedures analogous to those as described in Reference Example 25 by using 4-bromo-2,6-dimethylphenol and chloroacetone.

reactant | 4-bromo-2,6-dimethylphenol | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | 1-(4-Bromo-2,6-dimethylphenoxy)propan-2-one | BrC1=CC(=C(OCC(C)=O)C(=C1)C)C | C11H13BrO2
